US07868188B2
N-[5-(6-Chloro-5-methylsulfonyl-pyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide
A solution of 5-bromo-2-chloro-3-methylsulfonylpyridine (0.135 g, 0.5 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) 1:1 complex with dichloromethane (24 mg, 0.03 mmol), bis(pinacolato)diboron (0.135 g, 0.53 mmol) and potassium acetate (0.147 g, 1.5 mmol) in 1,4-dioxane (4 mL) was heated at 80° C. for 18 hours. The reaction mixture was cooled and N-(5-iodo-4-methyl-1,3-thiazol-2-yl)acetamide (100 mg, 0.35 mmol), 2M aqueous sodium carbonate (1.25 mL, 2.5 mmol), ethanol (0.6 mL) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) 1:1 complex with dichloromethane (12 mg, 0.015 mmol) were added. The resultant mixture was heated again at 80° C. for 8 hours. The resultant mixture was filtered through a plug of celite and purified with preparative HPLC (Method A) to give the title compound (30 mg, 17%; retention time

reactant | 5-bromo-2-chloro-3-methylsulfonylpyridine | 0.5 mmol, 0.135 g | BrC=1C=C(C(=NC1)Cl)S(=O)(=O)C | C6H5BrClNO2S
reactant | dichloromethane | 0.03 mmol, 24 mg | ClCCl | CH2Cl2
reactant | bis(pinacolato)diboron | 0.53 mmol, 0.135 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.5 mmol, 0.147 g | C(C)(=O)[O-].[K+]
reactant | N-(5-iodo-4-methyl-1,3-thiazol-2-yl)acetamide | 0.35 mmol, 100 mg | IC1=C(N=C(S1)NC(C)=O)C | C6H7IN2OS
reactant | sodium carbonate | 2.5 mmol, 2M, 1.25 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dichloromethane | 0.015 mmol, 12 mg | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | ethanol | 0.6 mL | C(C)O | C2H6O
product | N-[5-(6-Chloro-5-methylsulfonyl-pyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide | ClC1=C(C=C(C=N1)C1=C(N=C(S1)NC(C)=O)C)S(=O)(=O)C | C12H12ClN3O3S2
